US05294638
15.6 g triphenylphosphine were dissolved in 300 ml acetonitrile, and 3.02 ml bromine were added to the solution in drops with vigorous stirring at a temperature of 0° C. Then a solution of 10 g cisdihydronopol (=2-((1S,2S,5S)6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethanol) in 100 ml acetonitrile was added, and the reaction mixture was heated to 100° C. (bath temperature) for 5 hours. The reaction mixture was worked up by distilling off the solvent under reduced pressure, and the residue was purified chromatographically over silica gel using dichloromethane as eluent. 12.0 g 2-((1S,2S,5S)-6,6dimethylbicyclo[3,1,1]hept-2-yl)-ethyl bromide were obtained.

reactant | triphenylphosphine | 15.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 3.02 ml | BrBr | Br2
reactant | 2-((1S,2S,5S)6,6-dimethylbicyclo[3,1,1]hept-2-yl)-ethanol | CC1([C@H]2CC[C@H]([C@@H]1C2)CCO)C | C11H20O
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-((1S,2S,5S)-6,6dimethylbicyclo[3,1,1]hept-2-yl)-ethyl bromide | 12.0 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CCBr)C | C11H19Br
